US07834051B2
rac-2,6-difluoro-4-[(4R,5R)-4-hydroxy-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]benzonitrile
Using 2,6-difluoro-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile (100 mg) and lithium tri(sec-butyl)borohydride-THF solution (0.539 mL, 1 mol/L), and in the same manner as in Example 5, the title compound was obtained as a colorless solid (yield: 67 mg, 67%).

reactant | 2,6-difluoro-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile | 100 mg | FC1=C(C#N)C(=CC(=C1)N1C(C(C(C1C)=O)(C)C)=O)F | C14H12F2N2O2
reactant | lithium tri(sec-butyl)borohydride THF | 1 mol/L, 0.539 mL | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+].C1CCOC1
product | rac-2,6-difluoro-4-[(4R,5R)-4-hydroxy-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]benzonitrile | FC1=C(C#N)C(=CC(=C1)N1C(C([C@H]([C@H]1C)O)(C)C)=O)F | C14H14F2N2O2
